US07012075B2
To (2S)-2-(4-bromoanilino)-4-methylpentanoic acid (5.80 g, 20.28 mmol), PyBOP (11.08 g, 21.29 mmol), and aminoacetonitrile hydrochloride (3.75 g, 40.56 mmol) in dry DMF (150 mL) under dry nitrogen at 0° C. was added triethylamine (8.8 mL, 62.87 mmol) dropwise and the reaction was warmed to rt and stirred overnight. Aqueous sat. NaHCO3 was added and the product was extracted with ether (2×), dried over Na2SO4, concentrated in vacuo, and purified by flash chromatography over silica gel (EtOAc/Hex, 35/65 then 4/6) to afford (2S)-2-(4-bromoanilino)-N-(cyanomethyl)-4-methylpentanamide.

reactant | (2S)-2-(4-bromoanilino)-4-methylpentanoic acid | 20.28 mmol, 5.80 g | BrC1=CC=C(N[C@H](C(=O)O)CC(C)C)C=C1 | C12H16BrNO2
reactant | PyBOP | 21.29 mmol, 11.08 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | aminoacetonitrile hydrochloride | 40.56 mmol, 3.75 g | Cl.NCC#N
reactant | triethylamine | 62.87 mmol, 8.8 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | (2S)-2-(4-bromoanilino)-N-(cyanomethyl)-4-methylpentanamide | BrC1=CC=C(N[C@H](C(=O)NCC#N)CC(C)C)C=C1 | C14H18BrN3O
